US07723330B2
Step B: Preparation of tert-butyl 4-(4-(4-amino-2-fluorophenoxy)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl)piperidine-1-carboxylate:
A 100 mL round-bottomed flask was charged with tert-butyl 4-(1-(4-methoxybenzyl)-4-(4-amino-2-fluorophenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate (0.248 g, 0.455 mmol), 4-methylbenzenesulfonohydrazide (0.0846 g, 0.455 mmol) and toluene (10 mL). The reaction mixture was stirred at 100° C. for 4 days. The reaction was cooled to ambient temperature and partitioned between EtOAc and H2O. The phases were separated and the aqueous phase was re-extracted with EtOAc. The combined organic layers were dried (Na2SO4), filtered and concentrated. The crude material was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 100/1 to 10/1, v/v) to afford the product (84.3 mg, 33.9%). LRMS (APCI pos): >96% purity, 254 nm, m/e 548 (M+1).

reactant | tert-butyl 4-(1-(4-methoxybenzyl)-4-(4-amino-2-fluorophenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.455 mmol, 0.248 g | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)N)F)C3=CCN(CC3)C(=O)OC(C)(C)C)C=C1 | C30H32FN5O4
reactant | 4-methylbenzenesulfonohydrazide | 0.455 mmol, 0.0846 g | CC1=CC=C(C=C1)S(=O)(=O)NN | C7H10N2O2S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(4-(4-amino-2-fluorophenoxy)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl)piperidine-1-carboxylate | 84.3 mg, 33.9% | NC1=CC(=C(OC2=C3C(=NC=C2)N(N=C3C3CCN(CC3)C(=O)OC(C)(C)C)CC3=CC=C(C=C3)OC)C=C1)F | C30H34FN5O4
